US04559334
To a solution of benzhydryl 7-(4-bromo-2-hydroxyiminoacetoacetamido)-3-vinyl-3-cephem-4-carboxylate (48 g) in N,N-dimethylacetamide (200 ml) was added thiourea (7.0 g) at 5° C., and the mixture was stirred at ambient temperature for an hour. After the reaction mixture was poured into 3% aqueous sodium bicarbonate (2 liter), sodium chloride (150 g) was added thereto. The precipitates were collected by filtration and then dissolved in a mixture of acetone (200 ml) and ethyl acetate (500 ml). The separated organic layer was washed with an aqueous sodium chloride, followed by evaporation. The resultant precipitates were collected by filtration, washed with ethyl acetate and diethyl ether and dried in vacuo to give benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (16.9 g), mp 133°-136° C.

reactant | benzhydryl 7-(4-bromo-2-hydroxyiminoacetoacetamido)-3-vinyl-3-cephem-4-carboxylate | 48 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NO)=O | C26H22BrN3O6S
reactant | thiourea | 7.0 g | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | 2 liter | C([O-])(O)=O.[Na+]
reactant | sodium chloride | 150 g | [Cl-].[Na+]
solvent | N,N-dimethylacetamide | 200 ml | CN(C(C)=O)C | C4H9NO
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 16.9 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NO | C27H23N5O5S2
